US07405228B2
Preparation of (S)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide
To the mixture of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide (0.5 mmol), freshly fused zinc chloride (1.5 mmol), dimethyl sulphide (2.5 mmol), acetyl chloride (1.5 mmol) in tetrahydrofuran (50 ml) was stirred at 40° C. for 4 days. To this reaction mixture extracted with the ethyl acetate water mixture and organic layer was dried over sodium sulfate. The removal of the solvent afforded a residue, which was chromatographed over silica gel afforded title compound in 67% yield.

reactant | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide | 0.5 mmol | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN=[N+]=[N-])=O)F)OC | C17H22FN5O4
reactant | dimethyl sulphide | 2.5 mmol | CSC | C2H6S
reactant | acetyl chloride | 1.5 mmol | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (S)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide | 67% yield | O=C1C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN=[N+]=[N-])=O)F | C15H16FN5O3
